US04857527
To a solution of ethyl 1,4-dihydro-4-(3-nitrophenyl)-6-phenyl-3-pyridazinecarboxylate (0.4 g) in chloroform (6 ml) was added activated manganese dioxide (2 g) and the mixture was refluxed for 30 minutes with stirring vigorously. After allowing to cool to ambient temperature, manganese dioxide was filtered off. The filtrate was evaporated in vacuo, and the residual precipitate was recrystallized from diethyl ether. The crystal was collected by filtration, washed with diethyl ether and dried in vacuo to give ethyl 4-(3-nitrophenyl)-6-phenyl-3-pyridazinecarboxylate (0.2 g).

reactant | ethyl 1,4-dihydro-4-(3-nitrophenyl)-6-phenyl-3-pyridazinecarboxylate | 0.4 g | [N+](=O)([O-])C=1C=C(C=CC1)C1C(=NNC(=C1)C1=CC=CC=C1)C(=O)OCC | C19H17N3O4
solvent | chloroform | 6 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 2 g | [O-2].[O-2].[Mn+4]
product | ethyl 4-(3-nitrophenyl)-6-phenyl-3-pyridazinecarboxylate | 0.2 g | [N+](=O)([O-])C=1C=C(C=CC1)C1=C(N=NC(=C1)C1=CC=CC=C1)C(=O)OCC | C19H15N3O4
